US05538976
5-[N-(4-Cyanophenyl)-N-(4-trifluoromethylphenyl)amino]pyrimidine
Starting compounds: 5-[N-(4-cyanophenyl) amino]pyrimidine and 4-fluorobenzotrifluoride

reactant | 5-[N-(4-cyanophenyl) amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 4-fluorobenzotrifluoride | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
product | 5-[N-(4-Cyanophenyl)-N-(4-trifluoromethylphenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C(F)(F)F)C=1C=NC=NC1 | C18H11F3N4
